US06943183B2
3. Isoquinoline-1-carboxylic acid [2-((S)-2-imidazol-1-yl-1-pyridin-3-yl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-yl]-amide
To a mixture of 5-amino-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (100 mg, 0.287 mmol), 1-isoquinoline carboxylic acid (60 mg, 0.344 mmol), and HATU (131 mg, 0.344 mmol) was added CH2Cl2 (3 mL) and Et3N (48 μL, 0.344 mmol). The reaction was stirred at RT for 5 h. The mixture was diluted with CH2Cl2 and washed with H2O, saturated aqueous NaHCO3 and brine, dried over Na2SO4, and concentrated to give a foam/oil. Purification by chromatography (SiO2, 5-8% MeOH/CH2Cl2) afforded the title compound as a foam (114 mg, 0.226 mmol, 79%). The structure was confirmed by NMR and mass spectrometry. MS m/z 504 (M++H).

reactant | 5-amino-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.287 mmol, 100 mg | NC1=C2CCCC(C2=CC=C1O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C21H21N3O2
reactant | 1-isoquinoline carboxylic acid | 0.344 mmol, 60 mg | C1(=NC=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | HATU | 0.344 mmol, 131 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.344 mmol, 48 μL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | Isoquinoline-1-carboxylic acid [2-((S)-2-imidazol-1-yl-1-pyridin-3-yl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-yl]-amide | 0.226 mmol, 114 mg, 79% | N1(C=NC=C1)C[C@@H](OC1=C(C=2CCCC(C2C=C1)=O)NC(=O)C1=NC=CC2=CC=CC=C12)C=1C=NC=CC1 | C30H25N5O3
